US07476663B2
(d) methyl 2-[(5-chloro-thiophene-2-carbonyl)-amino]-propionate
3.10 g (19.1 mmol) 5-chloro-thiophene-2-carboxylic acid are combined with 4.44 ml (40 mmol) NMM and 6.42 g (20 mmol) TBTU in 50 ml THF and then stirred for 2 hours under a nitrogen atmosphere at ambient temperature. Then 2.79 g (20 mmol) methyl 2-aminopropionate-hydrochloride and 50 ml THF are added and the mixture is stirred for a further 16 hours at ambient temperature. Then the reaction mixture is poured into water, extracted with ethyl acetate, the combined organic phases are washed with sat. sodium hydrogen carbonate solution, water, 0.5-molar hydrochloric acid, water and sat. sodium chloride solution, dried over magnesium sulphate and evaporated down completely i. vac.

reactant | 5-chloro-thiophene-2-carboxylic acid | 19.1 mmol, 3.10 g | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | NMM | 40 mmol, 4.44 ml | CN1CCOCC1 | C5H11NO
reactant | TBTU | 20 mmol, 6.42 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | methyl 2-aminopropionate-hydrochloride | 20 mmol, 2.79 g | Cl.NC(C(=O)OC)C
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | methyl 2-[(5-chloro-thiophene-2-carbonyl)-amino]-propionate | ClC1=CC=C(S1)C(=O)NC(C(=O)OC)C | C9H10ClNO3S
